US05719157
Oily sodium hydride (60%, 0.117 g) was added to a solution of 2-hydroxypyridine (0.277 g) in N,N-dimethylformamide (DMF)(10 ml), and the mixture was stirred at room temperature for 15 minutes. To this solution was added ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-iodomethylquinoline-3-carboxylate(1.2 g) . The mixture was stirred at room temperature for 8 hours, poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residual oil was subjected to column chromatography on silica gel. The fractions eluted with chloroform/ethyl acetate (10/1, v/v) gave ethyl 2-(1,2-dihydro-2-oxopyridine-1-ylmethyl)-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate (0.64 g, 57%) which was then recrystallized from ethanol. Colorless prisms. mp. 154°-156° C.

reactant | sodium hydride | 0.117 g | [H-].[Na+]
reactant | 2-hydroxypyridine | 0.277 g | OC1=NC=CC=C1 | C5H5NO
reactant | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-iodomethylquinoline-3-carboxylate | 1.2 g | COC=1C=C2C(=C(C(=NC2=CC1OC)CI)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C23H24INO6
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(1,2-dihydro-2-oxopyridine-1-ylmethyl)-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate | 0.64 g, 57% | O=C1N(C=CC=C1)CC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C28H28N2O7
